US08492559B2
Stage 3: N,N-Dimethyl-4-(thiophen-2-yl)piperidin-4-amine bishydrochloride
HCl gas was passed through a solution of 10 g (1 eq.) tert-butyloxycarbonyl-4-(dimethylamino)-4-(thiophen-2-yl)piperidine in chloroform at 0° C. for ±1 h. Once the conversion was complete, 200 ml water were added to the reaction mixture, it was adjusted to a pH of ˜8 with Na2CO3 and then extracted with 15% IPA/CHCl3. The combined organic phases were dried over Na2SO4. Following removal of the solvent under reduced pressure, 6 g (89%) of product were obtained in the form of a white solid.

reactant | HCl | Cl | ClH
reactant | tert-butyloxycarbonyl-4-(dimethylamino)-4-(thiophen-2-yl)piperidine | 10 g, 1 eq. | C(C)(C)(C)OC(=O)N1CCC(CC1)(C=1SC=CC1)N(C)C | C16H26N2O2S
reactant | water | 200 ml | O | H2O
reactant | Na2CO3 | C(=O)([O-])[O-].[Na+].[Na+]
solvent | chloroform | C(Cl)(Cl)Cl | CHCl3
product | N,N-Dimethyl-4-(thiophen-2-yl)piperidin-4-amine bishydrochloride | 6 g, 89% | Cl.Cl.CN(C1(CCNCC1)C=1SC=CC1)C | InChI=1S/C11H18N2S.2ClH/c1-13(2)11(5-7-12-8-6-11)10-4-3-9-14-10;;/h3-4,9,12H,5-8H2,1-2H3;2*1H
